US05504244
Then, 1N sodium hydroxide (30 ml) is added to a solution of methyl 5-(4-methylbenzoyl)pentanoic acid (3.5 g) in methanol (100 ml) and the mixture heated under reflux for 5 hours. The methanol is removed in vacuo and water added to the residue. The resulting mixture is filtered and the filtrate acidified with 3N hydrochloric acid. The precipitate is collected by filtration and washed with water to provide 5-(4-methylbenzoyl)pentanoic acid (1.1 g) as colorless crystals, m.p. 147°-148° C. The structure is confirmed by NMR and 1R spectroscopy.

reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
reactant | methyl 5-(4-methylbenzoyl)pentanoic acid | 3.5 g | CC(C(=O)O)CCCC(C1=CC=C(C=C1)C)=O | C14H18O3
solvent | methanol | 100 ml | CO | CH4O
product | 5-(4-methylbenzoyl)pentanoic acid | 1.1 g | CC1=CC=C(C(=O)CCCCC(=O)O)C=C1 | C13H16O3
